US08048887B2
Ethyl 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)phenyl)-4-methyl-1H-imidazole-5-carboxylate
Cesium carbonate (234 mg, 0.719 mmol) was added to Pd(Ph3P)4 (27.7 mg, 0.024 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (200 mg, 0.479 mmol), ethyl 4-methyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazole-5-carboxylate (171 mg, 0.479 mmol). Dioxane (4 mL) and water (800 μL) was added at rt. The reaction was heated to 90° C. overnight. The mixture was diluted with ethyl acetate and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and was purified on silica gel (BIOTAGE®, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the titled compound (6.8 mg, 3%). 1H NMR (500 MHz, DMSO-d6) δ ppm 13.16 (0.34H, s), 12.96 (0.66H, s), 8.54 (1H, q, J=4.48 Hz), 8.50 (0.32H, s), 8.24 (0.68H, s), 8.10 (0.31H, d, J=7.93 Hz), 7.97-8.04 (2H, m), 7.89-7.97 (2H, m), 7.79-7.84 (1.35H, m), 7.70-7.79 (2H, m), 7.54-7.63 (1H, m), 7.37-7.44 (2H, m), 4.33 (0.65H, q, J=7.22 Hz), 4.25 (1.42H, q, J=7.22 Hz), 2.87 (3H, d, J=4.88 Hz), 2.55 (2H, s), 2.45 (1H, s), 1.34 (1H, t, J=7.02 Hz), 1.31 (2H, t, J=7.17 Hz). LC-MS retention time: 1.46 min; m/z (MH+): 498. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=9.90 min, purity=99%.

reactant | Cesium carbonate | 0.719 mmol, 234 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 0.479 mmol, 200 mg | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
reactant | ethyl 4-methyl-2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazole-5-carboxylate | 0.479 mmol, 171 mg | CC=1N=C(NC1C(=O)OCC)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H25BN2O4
reactant | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 0.024 mmol, 27.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 800 μL | O | H2O
product | Ethyl 2-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)phenyl)-4-methyl-1H-imidazole-5-carboxylate | 6.8 mg, 3% | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C=CC2)C=2NC(=C(N2)C)C(=O)OCC | C29H24FN3O4
